US06096781
2-(4-Acetoxyphenyl)-6-Acetoxybenzo[b]thiophene
2-(4-Hydroxyphenyl)-6-hydroxybenzo[b]thiophene (2.42 g, 10 mmol) was dissolved in 100 mL of tetrahydrofuran and triethylamine (8 g, 100 mmol) was added. The reaction mixture was stirred under a nitrogen atmosphere at ambient temperature, while acetylchloride (2 g, 30 mmol) was slowly added. After sixteen hours, the reaction was terminated by the addition of water. The product began to crystallize at the interface, the water layer was discarded, and product crystallized out of the tetrahydrofuran layer. The product was filtered off and dried to give 2.06 of the title compound. 1H NMR: (d6 -DMSO)δ 7.86 (s, 1H) 7.85 (d, 1H), 7.83 (s, 1H), 7.81 (d, 1H), 8.70 (d, 2H), 7.25 (d, 2H), 7.18 (dd, 1H). EA calculated for C18H14O4S: C, 66.24; H, 4.32 Found: C, 66.14; H, 4.38. MS(FD): m/e=326 (M+).

reactant | 2-(4-Hydroxyphenyl)-6-hydroxybenzo[b]thiophene | 10 mmol, 2.42 g | OC1=CC=C(C=C1)C1=CC2=C(S1)C=C(C=C2)O | C14H10O2S
reactant | triethylamine | 100 mmol, 8 g | C(C)N(CC)CC | C6H15N
reactant | acetylchloride | 30 mmol, 2 g | C(C)(=O)Cl | C2H3ClO
reactant | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 2-(4-Acetoxyphenyl)-6-Acetoxybenzo[b]thiophene | C(C)(=O)OC1=CC=C(C=C1)C1=CC2=C(S1)C=C(C=C2)OC(C)=O | C18H14O4S
